US07122550B2
6-Chloro-N-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]pyrazin-2-amine
In a procedure analogous to Example 1, reaction of (1R)-1,2,3,4-tetrahydronaphthalen-1-amine (441 mg, 3.0 mmol) and 2,6-dichloropyrazine (0.4055 g, 2.72 mmol) furnished the product (521 mg, 74%).

reactant | (1R)-1,2,3,4-tetrahydronaphthalen-1-amine | 3.0 mmol, 441 mg | [C@H]1(CCCC2=CC=CC=C12)N | C10H13N
reactant | 2,6-dichloropyrazine | 2.72 mmol, 0.4055 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 6-Chloro-N-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]pyrazin-2-amine | 521 mg, 74% | ClC1=CN=CC(=N1)N[C@@H]1CCCC2=CC=CC=C12 | C14H14ClN3
